US04234736
An admixture of 6.65 g (30 mmol) of 4-chloro-3-trifluoromethylphenyl-isocyanate and 4.4 g (30 mmol) of 2-amino-2-ethyl-butyric acid methyl ester were heated to 100° C. and maintained at that temperature for 5 minutes. The resulting crude product, 2-(N-[(4-chloro-3-trifluoromethylphenyl)-carbamoyl]-amino)-2-ethylbutyric acid methyl ester, was heated for 8 hours on a steam bath in a mixture of 200 ml of acetone and 200 ml of 6 N HCl. The mixture was cooled and then extracted with methylene chloride. The extract was dried over sodium sulphate and the methylene chloride was evaporated. The residue was crystallized from petroleum ether and then from methylene chloride/hexane to yield 3-(4-chloro-3-trifluoromethylphenyl)-5,5-diethyl-hydantoin, m.p. 86°-87° C.

reactant | 4-chloro-3-trifluoromethylphenyl-isocyanate | 30 mmol, 6.65 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | 2-amino-2-ethyl-butyric acid methyl ester | 30 mmol, 4.4 g | COC(C(CC)(CC)N)=O | C7H15NO2
reactant | 2-(N-[(4-chloro-3-trifluoromethylphenyl)-carbamoyl]-amino)-2-ethylbutyric acid methyl ester | COC(C(CC)(CC)NC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O)=O | C15H18ClF3N2O3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | HCl | 6 N, 200 ml | Cl | ClH
product | 3-(4-chloro-3-trifluoromethylphenyl)-5,5-diethyl-hydantoin | ClC1=C(C=C(C=C1)N1C(NC(C1=O)(CC)CC)=O)C(F)(F)F | C14H14ClF3N2O2
